US06630483B2
A1. (−)-cis-8,9-Dimethoxy-6-(4-methanesulfonylphenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine
8.0 g of (−)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-methanesulfonylbenzamide are suspended in 150 ml of toluene, treated with 4 ml of phosphorus oxychloride and heated under reflux for 5.5 h. The reaction solution is concentrated under reduced pressure, the residue is taken up in ethyl acetate and the mixture is extracted with satd sodium hydrogencarbonate solution and water. After chromatography on silica gel using petroleum etherlethyl acetate/triethylamine in the ratio 6/3/1, the title compound is obtained.

reactant | (−)-cis-N-[2-(3,4-dimethoxyphenyl)cyclohexyl]-4-methanesulfonylbenzamide | 8.0 g | COC=1C=C(C=CC1OC)[C@@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)S(=O)(=O)C)=O | C22H27NO5S
reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (−)-cis-8,9-Dimethoxy-6-(4-methanesulfonylphenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)S(=O)(=O)C | C22H25NO4S
